US07098212B2
2-Amino-3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-propionic acid
To a solution of 2-amino-3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-propionic acid ethyl ester (0.033 g, 0.065 mmol) in tetrahydrofuran, methanol and water (1 ml each) was added lithium hydroxide hydrate (0.014 g, 0.33 mmol). After 3 hours the reaction was concentrated in vacuo and the title compound was isolated by chromatography on silica gel (0.031 g, LRMS 478.5).

reactant | 2-amino-3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-propionic acid ethyl ester | 0.065 mmol, 0.033 g | C(C)OC(C(CC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)N)=O | C26H33ClFN3O4
reactant | lithium hydroxide hydrate | 0.33 mmol, 0.014 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 2-Amino-3-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenyl)-propionic acid | NC(C(=O)O)CC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C24H29ClFN3O4
